US05854265
Step F: 2-Bromoacetylpyridine.
To a 500 mL round bottomed flask with a stirring bar and an argon inlet is added CHCl3 (200 mL), THF (100 mL), 2-acetyl pyridine (8.57 mL, 76.46 mmol), and pyridinium bromide perbromide (26.85 g, 84.11 mmol). This solution is stirred at ambient temperature for 24 hours. The reaction mixture is washed with aqueous HCl, H2O, brine and dried (MgSO4). The solvent is evaporated in vacuo to afford the title compound which was used immediately in the next step.

reactant | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-acetyl pyridine | 76.46 mmol, 8.57 mL | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | pyridinium bromide perbromide | 84.11 mmol, 26.85 g | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Bromoacetylpyridine | BrCC(=O)C1=NC=CC=C1 | C7H6BrNO
